US04588719
4-Hydroxy-1-piperidinylindan
Hydrobromic acid (47-49%, 750 ml) is added to a stirred solution of the 4-methoxy-1-piperidinylindan (75 g) in glacial acetic acid (750 ml) under nitrogen. The mixture is refluxed for four hours, allowed to cool and poured into crushed ice and water. The pH of the ice mixture is adjusted to about 9 and the aqueous mixture extracted with methylene chloride. The methylene chloride extract is washed with water thereby forming a precipitate which is filtered and the solid dried. The methylene chloride layer is evaporated yielding an oil. The solid is dissolved in acetonitrile and treated with charcoal. The oil is treated with charcoal and dissolved in acetonitrile. Both dissolved materials are recrystallized from acetonitrile yielding the desired product, M.P. 134.5°-136.5° C.

reactant | Hydrobromic acid | 750 ml | Br | BrH
reactant | 4-methoxy-1-piperidinylindan | 75 g | COC1=C2CCC(C2=CC=C1)N1CCCCC1 | C15H21NO
reactant | water | O | H2O
reactant | charcoal | C | CH4
solvent | acetic acid | 750 ml | C(C)(=O)O | C2H4O2
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-Hydroxy-1-piperidinylindan | OC1=C2CCC(C2=CC=C1)N1CCCCC1 | C14H19NO
